US07767691B2
Preparation of 4-[cyano(diphenyl)methyl]-1-(3-cyanopropyl)-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 24, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)acetonitrile (0.044 g, 0.152 mmol) and 4-bromobutanenitrile (0.025 mL, 0.252 mmol) in 2CH3CN/3CHCl3 (3.5 mL) were reacted to give the desired product (0.0360 g, 54.1%). EI-MS m/z 356 (M+) Rt (1.57 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)acetonitrile | 0.152 mmol, 0.044 g | N12CCC(CC1)(C2)C(C#N)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H20N2
reactant | 4-bromobutanenitrile | 0.252 mmol, 0.025 mL | BrCCCC#N | C4H6BrN
product | 4-[cyano(diphenyl)methyl]-1-(3-cyanopropyl)-1-azoniabicyclo[2.2.1]heptane bromide | 0.0360 g, 54.1% | [Br-].C(#N)C(C12CC[N+](CC1)(C2)CCCC#N)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C24H26N3.BrH/c25-15-7-8-16-27-17-13-23(20-27,14-18-27)24(19-26,21-9-3-1-4-10-21)22-11-5-2-6-12-22;/h1-6,9-12H,7-8,13-14,16-18,20H2;1H/q+1;/p-1
